US06953857B2
3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-(1-phenyl-piperidin-4-ylmethyl)-benzamide
A mixture of 100 mg (0.2 mmol) 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-ylmethyl-benzamide, 50 mg (0.32 mmol) Bromobenzene, 70 mg sodium-t-butoxide in 5 ml dioxane were purged with argon for 10 min. Then 37 mg of 2-(Dicyclohexylphosphino)biphenyl and 20 mg Pd2(dba)3 were added under argon and the mixture refluxed overnight. The residue was taken up in 3 ml saturated NaHCO3 solution and filtered through a chem elut® cartridge by elution with ethyl acetate. Subsequent removal of the solvent under reduced pressure and purification by preparative HPLC (C18 reverse phase column, elution with a H2O/MeCN gradient with 0.5% TFA) the fractions containing the product were evaporated and lyophilised.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-ylmethyl-benzamide | 0.2 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCNCC2)C=CC1OC | C22H26Cl2N2O3
reactant | Bromobenzene | 0.32 mmol, 50 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium-t-butoxide | 70 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-(1-phenyl-piperidin-4-ylmethyl)-benzamide | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCN(CC2)C2=CC=CC=C2)C=CC1OC | C28H30Cl2N2O3
